US06927222B2
i) N-{2-[(2-Methyl-2-propenyl)oxy]phenyl}acetamide
The compound (1.74 g, 85%) was prepared from 3-chloro-2-methylpropene (1.09 g, 11.9 mmol) and 2-acetamidophenol (1.50 g, 9.92 mmol) analogously to that described in Example 8(i).

reactant | 3-chloro-2-methylpropene | 11.9 mmol, 1.09 g | ClCC(=C)C | C4H7Cl
reactant | 2-acetamidophenol | 9.92 mmol, 1.50 g | C(C)(=O)NC1=C(C=CC=C1)O | C8H9NO2
product | N-{2-[(2-Methyl-2-propenyl)oxy]phenyl}acetamide | 1.74 g, 85% | CC(COC1=C(C=CC=C1)NC(C)=O)=C | C12H15NO2
